US06759559B2
Preparation of 2-diphenylphosphanylbenzaldehyde:
After 5.9 ml of triethylamine (43 mmol) and 334 mg of tetrakis(triphenylphosphine)palladium have been added, 5 ml of 2-bromobenzaldehyde (43 mmol) and 11.15 ml of diphenylphosphine (64.5 mmol) are refluxed in 150 ml of absolute toluene under a protective gas atmosphere in a three-necked flask equipped with a reflux condenser. Triethylamine hydrobromide precipitates as a white solid over the course of the reaction. After 12 hours, the reaction solution is filtered, washed three times with saturated ammonium hydrochloride solution and saturated sodium chloride solution and the solvent is removed in a rotary evaporator. The resultant crude product is recrystallised from methanol. Yield 10.61 g (85% of theoretical).

reactant | triethylamine | 43 mmol, 5.9 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromobenzaldehyde | 43 mmol, 5 ml | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | diphenylphosphine | 64.5 mmol, 11.15 ml | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 334 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-diphenylphosphanylbenzaldehyde | C1(=CC=CC=C1)P(C1=C(C=O)C=CC=C1)C1=CC=CC=C1 | C19H15OP
